US04460509
Ten grams of lithocholic acid was dissolved in 40 ml. of 89.9% formic acid and 8 drops of 70% perchloric acid, and the resulting solution heated to 55° C. with stirring. The solution was then cooled to 40° C. at which time 35 ml. of acetic anhydride was slowly added and the temperature of the reaction mixture maintained between 55°-60° C. The solution was cooled and poured into 500 ml. of water and the resulting precipitate was filtered, washed with water and dried to yield 3α-formyloxy-5β-cholan-24-oic acid.

reactant | lithocholic acid | Ten grams | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC[C@H]4[C@@]3(CC[C@H](C4)O)C)C | C24H40O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | perchloric acid | 8 drops | Cl(=O)(=O)(=O)O | ClHO4
solvent | formic acid | C(=O)O | CH2O2
product | 3α-formyloxy-5β-cholan-24-oic acid | C(=O)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C25H40O4
